US04939137
3-[4-[4-(4-Fluorobenzoyl)piperidin-1-yl]-butyl]thieno[3,4-d]pyrimidine-2,4-dione
The title compound was prepared by dissolving N-(4-bromobutyl)-N'-(4-carbomethoxythien-3-yl)urea (6.92g, 21 mmol) in isopropanol (100 ml) and then successively treating the solution with 4-(4-fluorobenzoyl)piperidine hydrochloride (10.16 g, 42 mmol), sodium bicarbonate (3.7 g, 44 mmol) and sodium iodide (1.90 g, 12 mmol) to form a mixture. The urea was prepared by reacting methyl 4-aminothiophene-3-carboxylate with 4-bromobutylisocyanate in toluene at room temperature for 12 hours to produce the urea as a tan solid, mp 85°-86° C. The mixture was then heated to reflux under a nitrogen atmosphere for 12 hours. The reaction mixture was reduced to half volume, diluted with water, and concentrated to remove the remainder of the alcohol solvent. The residue was extracted with methylene chloride and the combined organic extracts were dried with saturated brine and magnesium sulfate. After concentration of the extracts, the residue was purified on silica gel using methylene chloride/ethanol/ammonium hydroxide (96:3.5:0.5) as eluant. There was obtained 3.62 g (40.8% yield) of the title compound as a brown solid. This material was recrystallized from CH2Cl2 /ether, mp 190°-192° C.

reactant | N-(4-bromobutyl)-N'-(4-carbomethoxythien-3-yl)urea | 21 mmol, 6.92g | BrCCCCNC(=O)NC1=CSC=C1C(=O)OC | C11H15BrN2O3S
reactant | 4-(4-fluorobenzoyl)piperidine hydrochloride | 42 mmol, 10.16 g | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | sodium bicarbonate | 44 mmol, 3.7 g | C([O-])(O)=O.[Na+]
reactant | sodium iodide | 12 mmol, 1.90 g | [I-].[Na+]
reactant | methyl 4-aminothiophene-3-carboxylate | NC=1C(=CSC1)C(=O)OC | C6H7NO2S
reactant | 4-bromobutylisocyanate | BrCCCCN=C=O | C5H8BrNO
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[4-[4-(4-Fluorobenzoyl)piperidin-1-yl]-butyl]thieno[3,4-d]pyrimidine-2,4-dione | FC1=CC=C(C(=O)C2CCN(CC2)CCCCN2C(NC=3C(C2=O)=CSC3)=O)C=C1 | C22H24FN3O3S
